US05993780
a. 5-(2-Acetoxypropionylamino)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide
5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (3.20 g, 4.3 mmol) was dissolved in dry dimethylacetamide (4 ml). 2-Acetoxypropionyl chloride (2.17 ml, 17.2 mmol) was then added dropwise with efficient stirring. Stirring was continued over night. After work up according to the procedure in Example 24i, 3.66 g (100%) of product was isolated.

reactant | 5-Amino-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 4.3 mmol, 3.20 g | NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C17H19I3N2O7
reactant | 2-Acetoxypropionyl chloride | 17.2 mmol, 2.17 ml | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
solvent | dimethylacetamide | 4 ml | CC(=O)N(C)C | C4H9NO
product | 5-(2-Acetoxypropionylamino)-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 3.66 g, 100% | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I)C | C22H25I3N2O10
